US06933265B2
PIPO (CAS RN: 091993-31-6; 5.04 g, 0.017 mol), NaBr (0.60 g, 0.006 mol) and KHCO3 (6.40, 0.063 mol) were charged in a 2 1 reactor together with water (60 g), EtOAc (250 g) and 3-(4,4-dimethyl-cyclohex-1-enyl)-propan-1-ol (100.0 g, 0.573 mol, purity: 96.5%). The pot temperature was set to 25° C. and 13% w/w aqueous NaOCl (426.8 g, 0.745 mol) was introduced over 2 hours. Stirring was continued for 1 hour and then the aqueous phase separated. Then 300 g of a 2% w/w aqueous ascorbic acid was added, and the reaction mixture was stirred for 1 hour. The aqueous phase was separated and the organic phase washed with NaHCO3 and then with water. The organic phase thus obtained was concentrated and the crude product purified by a flash distillation (58°–60° C., 1 hPa) to yield 68.4 g of 3-(4,4-dimethyl-1-cyclohexen-1-yl)propanal (yield: 66%; GC purity: 92.3%).

reactant | water | 60 g | O | H2O
reactant | 3-(4,4-dimethyl-cyclohex-1-enyl)-propan-1-ol | 0.573 mol, 100.0 g | CC1(CC=C(CC1)CCCO)C | C11H20O
reactant | NaOCl | 0.745 mol, 426.8 g | [O-]Cl.[Na+]
catalyst | NaBr | 0.006 mol, 0.60 g | [Na+].[Br-]
solvent | EtOAc | 250 g | CCOC(=O)C | C4H8O2
product | 3-(4,4-dimethyl-1-cyclohexen-1-yl)propanal | 68.4 g, yield: 66% | CC1(CC=C(CC1)CCC=O)C | C11H18O
